US06613786B2
(3,4-Dibromothiophen-2-yl)-oxo-acetic acid ethyl ester (6.84 g, 20 mmol) was stirred in a mixture of 100 ml water and 10 N NaOH (10 ml, 100 mmol) at room temperature for 20 hours. The reaction mixture was then acidified with 3N HCl, and extracted with ethyl acetate (3×50 ml). The combined ethyl acetate extracts were dried over Na2SO4 and concentrated under vacuum to yield (3,4-dibromothiophen-2-yl)-oxo-acetic acid (3.15 g, 50%). MS (M−H)−: 312.74; 1H NMR (300 MHz, DMSO-d6) δ8.45 (1H, s).

reactant | (3,4-Dibromothiophen-2-yl)-oxo-acetic acid ethyl ester | 20 mmol, 6.84 g | C(C)OC(C(=O)C=1SC=C(C1Br)Br)=O | C8H6Br2O3S
reactant | NaOH | 100 mmol, 10 N, 10 ml | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | water | 100 ml | O | H2O
product | (3,4-dibromothiophen-2-yl)-oxo-acetic acid | 3.15 g, 50% | BrC1=C(SC=C1Br)C(C(=O)O)=O | C6H2Br2O3S
